US06699904B2
A stirred solution of (4-bromomethyl-phenyl)acetic acid (80.0 mmol, 12.0 g) and thionyl chloride (240 mmol, 17.5 mL) in chloroform (200 mL) under a nitrogen atmosphere was heated under reflux for 16 hours. The solution was cooled to room temperature and concentrated under reduced pressure to a white solid. The solid was dissolved in dichloromethane and added dropwise to a solution of 1-heptylamine (95.9 mmol, 14.2 mL) and N,N-diisopropylethylamine (95.9 mmol, 16.7 mL) in dichloromethane (100 mL) cooled to 0° C. The resulting solution was stirred at room temperature for 25 minutes. The mixture was poured over 1N HCl, and the aqueous layer was extracted with dichloromethane (2×). The organic layers were combined, washed with 2N HCl (2×), brine (1×), dried over anhydrous sodium sulfate and concentrated to give a white solid. A stirred solution of this solid (˜24.7 mmol, 7.5 g) and CaCO3(120 mmol, 12.0 g) in a 1:1 H2O/dioxane mixture (150 mL) was brought to reflux for 3 hours. The solution was cooled to room temperature and concentrated to a white residue. Water and dichloromethane were added and the remaining solid was dissolved by the addition of 6N HCl. The aqueous layer was isolated and extracted with dichloromethane (2×). The organic layers were combined, washed with brine (1×), dried over anhydrous sodium sulfate, and concentrated to give a yellow oil. The oil was purified by chromatography on silica gel (Merck silica gel 60, art#9385-3) eluting with 10% CH3OH in dichloromethane to give N-heptyl-2-(4-hydroxymethyl-phenyl)-acetamide as a white solid (1.5 g, 24%).

reactant | (4-bromomethyl-phenyl)acetic acid | 80.0 mmol, 12.0 g | BrCC1=CC=C(C=C1)CC(=O)O | C9H9BrO2
reactant | thionyl chloride | 240 mmol, 17.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1-heptylamine | 95.9 mmol, 14.2 mL | C(CCCCCC)N | C7H17N
reactant | N,N-diisopropylethylamine | 95.9 mmol, 16.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HCl | 1N | Cl | ClH
reactant | CaCO3 | 120 mmol, 12.0 g | C(=O)([O-])[O-].[Ca+2]
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | H2O dioxane | 150 mL | O.O1CCOCC1
product | N-heptyl-2-(4-hydroxymethyl-phenyl)-acetamide | 1.5 g, 24% | C(CCCCCC)NC(CC1=CC=C(C=C1)CO)=O | C16H25NO2
